US07488740B2
2. Methyl 4-[(4-trifluoromethylphenyl)amino]-7-(3-trifluoromethylpyridin-2-yl)-2-methoxymethyl-[1,8]naphthyridine-3-carboxylate
Dissolve methyl 4-chloro-2-methoxymethyl-7-[3-(trifluoromethyl)pyridin-2-yl]-[1,8]naphthyridine-3-carboxylate (212 mg, 0.52 mmol) in acetonitrile (5 mL) and add 4 drops 2M HCl (Et2O). Stir the mixture for 3 hours at room temperature. Filter off the resulting yellow precipitate to yield the title compound as its hydrochloride salt. MS 537.20 (M+1). 1H NMR δ (Free base, CDCl3) 9.91 (1H, s), 8.88 (1H, m), 8.16 (2H, m), 7.67-7.55 (4H, m), 7.12 (1H, d), 6.99 (1H, d), 4.42 (2H, s), 4.02 (3H, s), 3.95 (3H, s).

reactant | methyl 4-chloro-2-methoxymethyl-7-[3-(trifluoromethyl)pyridin-2-yl]-[1,8]naphthyridine-3-carboxylate | 0.52 mmol, 212 mg | ClC1=C(C(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)COC)C(=O)OC | C18H13ClF3N3O3
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | HCl | 2M, 4 drops | Cl | ClH
product | Methyl 4-[(4-trifluoromethylphenyl)amino]-7-(3-trifluoromethylpyridin-2-yl)-2-methoxymethyl-[1,8]naphthyridine-3-carboxylate | FC(C1=CC=C(C=C1)NC1=C(C(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)COC)C(=O)OC)(F)F | C25H18F6N4O3
